US04960884
In a manner similar to that described by Godfrey et al., (J. Chem. Soc. Perkin I, 1353-1354 (1974), the reaction of 7.0 grams (0.042 mole) of 3-(2-fluoroethoxy)benzaldehyde with 3-chloroperoxybenzoic acid (14.0 grams of 75% technical, 0.061 mole) in 100 ml of dry methylene chloride followed by treatment with an aqueous, 15% sodium hydroxide solution and methanol yielded 5.0 grams of 2-fluoroethyl 3-hydroxyphenyl ether as an oil.

reactant | 3-(2-fluoroethoxy)benzaldehyde | 0.042 mole, 7.0 grams | FCCOC=1C=C(C=O)C=CC1 | C9H9FO2
reactant | 3-chloroperoxybenzoic acid | 0.061 mole, 14.0 grams | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-fluoroethyl 3-hydroxyphenyl ether | 5.0 grams | OC=1C=C(C=CC1)OCCF | C8H9FO2
